US07566724B2
Under an argon atmosphere, triethylamine (0.028 ml) and 2,6-difluorobenzoyl chloride (0.015 ml) were added to a solution of 2-amino-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (31.7 mg) in dichloromethane (2 ml), and the resulting mixture was stirred at room temperature for 2 hours. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction solution and the resulting mixture was extracted with ethyl acetate. Organic layer was washed twice with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by thin layer chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate=3/2) to obtain (E)-2-(2,6-difluorobenzamido)-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (42 mg).

reactant | triethylamine | 0.028 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzoyl chloride | 0.015 ml | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 2-amino-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 31.7 mg | COC(C(CC=CC1=CC=C(C=C1)N(C1=NC=CC=N1)C)N)=O | C17H20N4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (E)-2-(2,6-difluorobenzamido)-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 42 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)C)NC(C1=C(C=CC=C1F)F)=O)=O | C24H22F2N4O3
